US04945098
3-[6-(Triphenylmethoxy)hexyloxy]-2-methylenepropan-1-ol
Sodium hydride (from 55-60% oil dispersion (0.52 g) washed with pentane (3×3 ml)), dry dimethylformamide (20 ml), and 2-metyylenepropane-1,3-diol (1.0 g) were mixed. After 1 hour when H2 -evolution had ceased 1-chloro-6-(triphenylmethoxy)hexane (4.2 g) was added, and the mixture was stirred for 3 hours at 85° C. After cooling water (20 ml) was carefully added, and the mixture was extracted with ether (2×100 ml). The ether extracts were washed with water (100 ml), dried over magnesium sulfate and evaporated to dryness in vacuo. The product was purified through a column of silica gel 60 (70-230 mesh, 40 g) eluting with ether. Futher purification was achieved by chromatography on Waters PrepLC®/System 500A using a prepPAK®-500/SILICA cartridge with ether/pentane 1:2 followed by ether/pentane 1:1 as eluent.

reactant | Sodium hydride | 3 ml, 0.52 g | [H-].[Na+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | 1-chloro-6-(triphenylmethoxy)hexane | 4.2 g | ClCCCCCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27ClO
solvent | water | 20 ml | O | H2O
product | 3-[6-(Triphenylmethoxy)hexyloxy]-2-methylenepropan-1-ol | C1(=CC=CC=C1)C(OCCCCCCOCC(CO)=C)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34O3
